US07060844B2
A mixture of 3-[5-(3-dimethylamino-prop-1-ynyl)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one (300 mg, 0.91 mmol) and 10% palladium on carbon (60 mg) in MeOH (20 ml) was shaken under 43 psi of hydrogen for 4 hours. The catalyst was removed by filtration through celite and rinsed with MeOH. The combined filtrates were evaporated to give a crude product. The crude product was purified by silica gel column chromatography, eluted with a gradient of MeOH in CHCl3, to give 3-[5-(3-dimethylamino-propyl)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one as a yellow solid (70 mg, 23%).

reactant | 3-[5-(3-dimethylamino-prop-1-ynyl)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one | 0.91 mmol, 300 mg | CN(CC#CC=1C=C2COC(C2=CC1)=C1C(NC2=CC=CC=C12)=O)C | C21H18N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 60 mg | [Pd] | Pd
solvent | MeOH | 20 ml | CO | CH4O
product | 3-[5-(3-dimethylamino-propyl)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one | 70 mg, 23% | CN(CCCC=1C=C2COC(C2=CC1)=C1C(NC2=CC=CC=C12)=O)C | C21H22N2O2
